US04999378
(2) 4-[3-[N-(3-Carboxypropionyl) -N-(4-chlorophenyl)amino]propoxy]benzoic acid
Methyl 4-[3-[N-(3-carboxypropionyl) -N-(4-chlorophenyl)amino]propoxy]benzoate (1.0 g) was dissolved in methanol (20 ml), and 1N aqueous sodium hydroxide solution (5.25 ml) was added thereto, and the mixture was heated with stirring at 60° C. for 24 hours. After the reaction mixture was cooled, the mixture was adjusted to pH 4-5 by adding conc. hydrochloric acid thereto. The mixture was concentrated under reduced pressure, and thereto was added water, then, the precipitate was crushed, collected by filtration, and washed with water to give the desired product (0.97 g). mp. 155°-158° C.

reactant | Methyl 4-[3-[N-(3-carboxypropionyl) -N-(4-chlorophenyl)amino]propoxy]benzoate | 1.0 g | C(=O)(O)CCC(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)OC)C=C1 | C21H22ClNO6
reactant | sodium hydroxide | 1N, 5.25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 4-[3-[N-(3-Carboxypropionyl) -N-(4-chlorophenyl)amino]propoxy]benzoic acid | 0.97 g | C(=O)(O)CCC(=O)N(C1=CC=C(C=C1)Cl)CCCOC1=CC=C(C(=O)O)C=C1 | C20H20ClNO6
